US05155251
To a stirred -50° C. solution of tertiary-butyl acetate (60 mL, 0.44 mol), (R)-4-cyano-3-hydroxybutyric acid, n-butyl ester (20 g, 0.11 mol) and 150 mL tetrahydrofuran is added lithium diisopropylamide (300 mL of 1.5 M) in tetrahydrofuran over 15 minutes and the mixture is stirred at -45° C. to -50° C. for 90 minutes. To this solution is added 700 mL of 5% aqueous hydrochloric acid solution along with 300 mL of ethyl acetate. The aqueous layer is separated and the remaining top layer washed with aqueous sodium chloride solution. The organic layer is then concentrated in vacuo to afford crude (5R)-1,1-dimethylethyl 6-cyano-5-hydroxy-3-oxo-hexanoate which is not isolated, and is carried on to (4R-cis)-1,1-dimethylethyl 6-cyanomethyl-2,2-dimethyl -1,3-dioxane-4-acetate as described in Example 2. TLC: Rf =0.15 (1:1 ethyl acetate: hexanes) on a Kieselgel 60 F254 0.254 mm silica thin layer plate.

reactant | tertiary-butyl acetate | 0.44 mol, 60 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | (R)-4-cyano-3-hydroxybutyric acid, n-butyl ester | 0.11 mol, 20 g | C(#N)C[C@H](CC(=O)OCCCC)O | C9H15NO3
reactant | lithium diisopropylamide | 1.5 M, 300 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | hydrochloric acid | 700 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (5R)-1,1-dimethylethyl 6-cyano-5-hydroxy-3-oxo-hexanoate | C(#N)C[C@H](CC(CC(=O)OC(C)(C)C)=O)O | C11H17NO4
